US04235621
In a flask, 64 g of 2,3-dichloro-5-trifluoromethyl pyridine, 250 ml of dimethyl sulfoxide, 81.8 g of anhydrous potassium carbonate and 33.4 g of phenol were charged. The flask was heated in an oil bath at 100° C. to react them with stirring for 4 hours. The reaction mixture was poured into suitable amount of water and the reaction product was extracted with methylene chloride. The extracted phase was washed with water, with 5% sodium hydroxide aqueous solution and then, with water and dried over anhydrous sodium sulfate. Methylene chloride was distilled off under a reduced pressure and the residue was distilled to obtain 49 g of 2-phenoxy-3-chloro-5-trifluoromethyl pyridine. The product was mixed with 100 ml of 98% sulfuric acid and the mixture was cooled with ice water. A mixture of 11.3 g of 60% nitric acid and 30 ml of 98% sulfuric acid was added dropwise to the sulfuric acid solution of the reaction product at a temperature of 0° to 10° C. A mild exothermic reaction was performed. After the reaction, the reaction mixture was poured into suitable amount of ice water and neutralized with 10% sodium hydroxide aqueous solution. The reaction product was extracted with methylene chloride. The extracted phase was dried over anhydrous sodium sulfate. Methylene chloride was distilled off under a reduced pressure to obtain 38.5 g of the object compound having a melting point of 90° to 91° C.

reactant | 2,3-dichloro-5-trifluoromethyl pyridine | 64 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | dimethyl sulfoxide | 250 ml | CS(=O)C | C2H6OS
reactant | potassium carbonate | 81.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenol | 33.4 g | C1(=CC=CC=C1)O | C6H6O
solvent | water | O | H2O
product | 2-phenoxy-3-chloro-5-trifluoromethyl pyridine | 49 g | O(C1=CC=CC=C1)C1=NC=C(C=C1Cl)C(F)(F)F | C12H7ClF3NO
